US05536725
This compound is prepared in a manner analogous to that of Example 1, using 3.4 grams (0.013 mole) of 4-(2,3-dihydro-2,2-dimethylbenzofuran- 7-ylmethyl)cyclohexanone and 1.2 grams (0.014 mole) of cyanoguanidine in 2-(2-ethoxyethoxy)ethanol, yielding 2,4-diamino-6-(2,3-dihydro-2,2-dimethylbenzofuran-7-ylmethyl)-5,6,7,8-tetrahydroquinazoline.

reactant | 4-(2,3-dihydro-2,2-dimethylbenzofuran- 7-ylmethyl)cyclohexanone | 0.013 mole, 3.4 grams | CC1(OC2=C(C1)C=CC=C2CC2CCC(CC2)=O)C | C17H22O2
reactant | cyanoguanidine | 0.014 mole, 1.2 grams | C(#N)NC(=N)N | C2H4N4
solvent | 2-(2-ethoxyethoxy)ethanol | C(C)OCCOCCO | C6H14O3
product | 2,4-diamino-6-(2,3-dihydro-2,2-dimethylbenzofuran-7-ylmethyl)-5,6,7,8-tetrahydroquinazoline | NC1=NC=2CCC(CC2C(=N1)N)CC1=CC=CC=2CC(OC21)(C)C | C19H24N4O
